US05010100
Step C: 1-(5-Propylthio-4-Benzyloxy-3-methoxyphenyl)-4-(3,4,5-trimethoxyphenyl)-1,4-butanedione
A mixture of 1-(5-iodo-4-benzyloxy-3-methoxyphenyl)-4-(3,4,5-trimethoxyphenyl)-1,4-butanedione (50 g), propyldisulfide (50 mL) and copper powder (50 g) in DMF (300 mL) was heated under reflux for 24 h, cooled, and filtered over celite. The filtrate was concentrated to dryness and the residue was taken up in CH2Cl2 and washed with water, dried, and evaporated to dryness. Crystallization from ethyl ether afforded pure product.

reactant | 1-(5-iodo-4-benzyloxy-3-methoxyphenyl)-4-(3,4,5-trimethoxyphenyl)-1,4-butanedione | 50 g | IC=1C(=C(C=C(C1)C(CCC(=O)C1=CC(=C(C(=C1)OC)OC)OC)=O)OC)OCC1=CC=CC=C1 | C27H27IO7
reactant | propyldisulfide | 50 mL | C(CC)SSCCC | C6H14S2
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
catalyst | copper | 50 g | [Cu] | Cu
product | 1-(5-Propylthio-4-Benzyloxy-3-methoxyphenyl)-4-(3,4,5-trimethoxyphenyl)-1,4-butanedione | C(CC)SC=1C(=C(C=C(C1)C(CCC(=O)C1=CC(=C(C(=C1)OC)OC)OC)=O)OC)OCC1=CC=CC=C1 | C30H34O7S
